US07126009B2
Synthesis of 3-cyclopentyl-1-methyl-2-pyridin-2-yl-1H-indole-6-carboxylic acid methyl ester (13)
A 100 mL three neck flask equipped with a thermocouple, condenser and stir bar was purged with argon. 3-Amino-4-chlorobenzoic acid methyl ester (5.0 g, 26.94 mmol), 2-cyclopentylethynyl-pyridine (5.528 g, 32.33 mmol), Pd(OAc)2 (181 mg, 0.81 mmol), DtBPF (767 mg, 1.62 mmol), K2CO3 (9.29 g, 67.35 mmol) and NMP (25 mL) were then charged. The reaction was heated to 130° C. and monitored by HPLC. The reaction was complete after 6 hours.

reactant | 3-Amino-4-chlorobenzoic acid methyl ester | 26.94 mmol, 5.0 g | COC(C1=CC(=C(C=C1)Cl)N)=O | C8H8ClNO2
reactant | 2-cyclopentylethynyl-pyridine | 32.33 mmol, 5.528 g | C1(CCCC1)C#CC1=NC=CC=C1 | C12H13N
reactant | K2CO3 | 67.35 mmol, 9.29 g | C(=O)([O-])[O-].[K+].[K+]
catalyst | Pd(OAc)2 | 0.81 mmol, 181 mg | CC(=O)[O-].CC(=O)[O-].[Pd+2]
catalyst | DtBPF | 1.62 mmol, 767 mg | CC(C)(C)P(C1=CC=C[CH-]1)C(C)(C)C.CC(C)(C)P(C1=CC=C[CH-]1)C(C)(C)C.[Fe+2]
solvent | NMP | 25 mL | CN1CCCC1=O | C5H9NO
product | 3-cyclopentyl-1-methyl-2-pyridin-2-yl-1H-indole-6-carboxylic acid methyl ester | COC(=O)C1=CC=C2C(=C(N(C2=C1)C)C1=NC=CC=C1)C1CCCC1 | C21H22N2O2
